US07514466B2
Crude 5′-(5-cyano-1-methyl-1H-pyrrol-2-yl)spiro[cyclohexane-1,3′-[3H]indol]-2′-ylidenecyanamide (95.0 g; purity 78% HPLC area) in THF (250 mL) was treated with diethylamine (105 g) and refluxed with a concomitant addition of THF (3.35 L) until dissolved. The solvent was distilled off (2.5 L) during which a precipitate was formed. The flask was cooled to ambient temperature and the white precipitate was filtered, washed with ether and dried to give 58.0 g (61% yield) of purified 5′-(5-cyano-1-methyl-1H-pyrrol-2-yl)spiro[cyclohexane-1,3′-[3H]indol])-2′-ylidenecyanamide (purity >99% HPLC area).

reactant | 5′-(5-cyano-1-methyl-1H-pyrrol-2-yl)spiro[cyclohexane-1,3′-[3H]indol]-2′-ylidenecyanamide | 95.0 g | C(#N)C1=CC=C(N1C)C=1C=C2C3(C(NC2=CC1)=NC#N)CCCCC3 | C20H19N5
reactant | diethylamine | 105 g | C(C)NCC | C4H11N
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 3.35 L | C1CCOC1 | C4H8O
product | 5′-(5-cyano-1-methyl-1H-pyrrol-2-yl)spiro[cyclohexane-1,3′-[3H]indol] | 58.0 g, 61% yield | C(#N)C1=CC=C(N1C)C=1C=C2C3(C=NC2=CC1)CCCCC3 | C19H19N3
